US04636513
(10) N-(5-Methyl-4-isoxazolylcarbonyl)-morpholine
of melting point 42° to 44° C., prepared from 5-methyl-4-isoxazolecarboxylic acid chloride and morpholine.

reactant | 5-methyl-4-isoxazolecarboxylic acid chloride | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-(5-Methyl-4-isoxazolylcarbonyl)-morpholine | CC1=C(C=NO1)C(=O)N1CCOCC1 | C9H12N2O3
